US06884774B2
A mixture of 8-(7-methoxyheptyloxy)-1,4-dioxaspiro[4.5]decane (9.8 g) and 3N aqueous hydrochloric acid (34 ml) in tetrahydrofuran (68 ml) was stirred for 25.5 hours at room temperature. The solvent was evaporated in vacuo and the residue was poured into a mixture of ethyl acetate and water. Then the solution was adjusted to pH 9 with potassium carbonate. The organic layer was successively washed with water and brine and dried over magnesium sulfate. The solvent was evaporated in vacuo to give 4-(7-methoxyheptyloxy)cyclohexanone (8.34 g).

reactant | 8-(7-methoxyheptyloxy)-1,4-dioxaspiro[4.5]decane | 9.8 g | COCCCCCCCOC1CCC2(OCCO2)CC1 | C16H30O4
reactant | hydrochloric acid | 3N, 34 ml | Cl | ClH
solvent | tetrahydrofuran | 68 ml | O1CCCC1 | C4H8O
product | 4-(7-methoxyheptyloxy)cyclohexanone | 8.34 g | COCCCCCCCOC1CCC(CC1)=O | C14H26O3
